** sch_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/QDLL_TOP.sch
.subckt QDLL_TOP VDD VSS IN1 OUT1 OUT2 IN2 CPOUT2 VCONT2 IN3 OUT3
*.PININFO IN1:I IN2:I OUT1:O OUT2:O CPOUT2:O VCONT2:I OUT3:O IN3:I VDD:B VSS:B
x2 VDD IN1 net1 VCONT VSS VCDL
x5 VDD IN2 net3 VCONT2 VSS VCDL
x1 VSS VDD net3 OUT2 DLine
x3 VSS VDD IN3 OUT3 DLine
x4 VSS VDD net1 OUT1 DLine
x6 VDD VSS IN2 net4 OUT2 PD
x7 VDD VSS IN1 net2 OUT1 PD
x8 net2 VCONT VSS CP
x9 net4 CPOUT2 VSS CP
CC1 VDD VSS cap_cmim w=25.5e-6 l=6.99e-6
x10 VCONT VDD VSS sg13g2_antennanp
x11 VCONT2 VDD VSS sg13g2_antennanp
.ends

* expanding   symbol:  VCDL.sym # of pins=5
** sym_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/VCDL.sym
** sch_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/VCDL.sch
.subckt VCDL VDD VIN VOUT VCONT VSS
*.PININFO VDD:B VSS:B VIN:I VCONT:I VOUT:O
MM1 VOUT VIN net3 VSS sg13_lv_nmos w=2u l=0.13u ng=1
MM2 net3 VCONT VSS VSS sg13_lv_nmos w=3.5u l=0.18u ng=1
MM3 net1 VCONT VSS VSS sg13_lv_nmos w=2u l=0.25u ng=1
MM4 VOUT VIN net2 VDD sg13_lv_pmos w=4.46u l=0.13u ng=1
MM5 net2 net1 VDD VDD sg13_lv_pmos w=2.24u l=0.13u ng=1
MM6 net1 net1 VDD VDD sg13_lv_pmos w=2.24u l=0.13u ng=1
.ends


* expanding   symbol:  DLine.sym # of pins=4
** sym_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/DLine.sym
** sch_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/DLine.sch
.subckt DLine VSS VDD VIN VOUT
*.PININFO VOUT:O VIN:I VDD:B VSS:B
x2 net1 net4 VDD VSS sg13g2_inv_4
x3 net2 net1 VDD VSS sg13g2_inv_8
x4 VOUT net2 VDD VSS sg13g2_inv_16
x5 net3 VIN VDD VSS sg13g2_dlygate4sd3_1
x6 net4 net3 VDD VSS sg13g2_dlygate4sd2_1
.ends


* expanding   symbol:  PD.sym # of pins=5
** sym_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/PD.sym
** sch_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/PD.sch
.subckt PD VDD VSS PDIN1 PDOUT PDIN2
*.PININFO VDD:B VSS:B PDOUT:O PDIN1:I PDIN2:I
x1 PDOUT PDIN1 PDIN2 VDD VSS sg13g2_xor2_1
.ends


* expanding   symbol:  CP.sym # of pins=3
** sym_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/CP.sym
** sch_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/CP.sch
.subckt CP CPIN CPOUT VSS
*.PININFO VSS:B CPIN:I CPOUT:O
CC1 CPOUT VSS cap_cmim w=60e-6 l=20e-6
x1 CPOUT CPIN VSS RES
.ends


* expanding   symbol:  sg13g2_antennanp.sym # of pins=1
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_antennanp.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_antennanp.sch
.subckt sg13g2_antennanp A VDD VSS

*.PININFO A:I
DD1 VSS A dantenna l=0.78u w=0.78u
DD2 A VDD dpantenna l=1.34u w=1.05u
.ends


* expanding   symbol:  sg13g2_inv_2.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_inv_2.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_inv_2.sch
.subckt sg13g2_inv_2 Y A VDD VSS

*.PININFO Y:O A:I
MM1 Y A VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2
MM2 Y A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2
.ends


* expanding   symbol:  sg13g2_inv_4.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_inv_4.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_inv_4.sch
.subckt sg13g2_inv_4 Y A VDD VSS

*.PININFO A:I Y:O
MM1 Y A VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4
MM2 Y A VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4
.ends


* expanding   symbol:  sg13g2_inv_8.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_inv_8.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_inv_8.sch
.subckt sg13g2_inv_8 Y A VDD VSS

*.PININFO Y:O A:I
MM1 Y A VSS VSS sg13_lv_nmos w=5.92u l=130.00n ng=8
MM2 Y A VDD VDD sg13_lv_pmos w=8.96u l=130.00n ng=8
.ends


* expanding   symbol:  sg13g2_inv_16.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_inv_16.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_inv_16.sch
.subckt sg13g2_inv_16 Y A VDD VSS

*.PININFO Y:O A:I
MM1 Y A VSS VSS sg13_lv_nmos w=11.84u l=130.00n ng=16
MM2 Y A VDD VDD sg13_lv_pmos w=17.92u l=130.00n ng=16
.ends


* expanding   symbol:  sg13g2_dlygate4sd3_1.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_dlygate4sd3_1.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_dlygate4sd3_1.sch
.subckt sg13g2_dlygate4sd3_1 X A VDD VSS

*.PININFO A:I X:O
MM1 net3 A VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM2 net1 net3 VSS VSS sg13_lv_nmos w=420.00n l=500.0n ng=1
MM3 net2 net1 VSS VSS sg13_lv_nmos w=420.00n l=500.0n ng=1
MM4 X net2 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM5 net3 A VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM6 net1 net3 VDD VDD sg13_lv_pmos w=1.000u l=500.0n ng=1
MM7 net2 net1 VDD VDD sg13_lv_pmos w=1.000u l=500.0n ng=1
MM8 X net2 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_dlygate4sd2_1.sym # of pins=2
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_dlygate4sd2_1.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_dlygate4sd2_1.sch
.subckt sg13g2_dlygate4sd2_1 X A VDD VSS

*.PININFO A:I X:O
MM1 net2 A VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM2 net1 net2 VSS VSS sg13_lv_nmos w=420.00n l=180.00n ng=1
MM3 net3 net1 VSS VSS sg13_lv_nmos w=420.00n l=180.00n ng=1
MM4 X net3 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM5 net2 A VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM6 net1 net2 VDD VDD sg13_lv_pmos w=1.000u l=250.00n ng=1
MM7 net3 net1 VDD VDD sg13_lv_pmos w=1.000u l=250.00n ng=1
MM8 X net3 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_xor2_1.sym # of pins=3
** sym_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sym/xschem/sg13g2_xor2_1.sym
** sch_path: /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/sch/xschem/sg13g2_xor2_1.sch
.subckt sg13g2_xor2_1 X A B VDD VSS

*.PININFO X:O B:I A:I
MM1 net1 A VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1
MM2 net1 B VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1
MM3 X net1 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM4 X B net3 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM5 net3 A VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM6 net4 A VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM7 net1 B net4 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM8 net2 A VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM9 X net1 net2 VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM10 net2 B VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends


* expanding   symbol:  RES.sym # of pins=3
** sym_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/RES.sym
** sch_path: /foss/designs/IHP__QDLL6501/QDLL6501-main/schematic/xschem/RES.sch
.subckt RES ROUT RIN VSS
*.PININFO RIN:I ROUT:O VSS:B
RR13 net1 RIN 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR1 net2 net1 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR2 net3 net2 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR3 net4 net3 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR4 net5 net4 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR5 net6 net5 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR6 net7 net6 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR7 net8 net7 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR8 net9 net8 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR9 net10 net9 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR10 net11 net10 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
RR11 ROUT net11 2654.4930417495 $SUB=VSS $[rppd] w=1e-6 l=10e-6 b=0
.ends

